US06875784B2
Iron metal (0.120 g, 2.15 mmol) was added in five portions over 1 h to a refluxing solution of 3-(2,6-difluoro-4-nitro-phenyl)-3-aza-bicyclo[3.1.0]hexane (0.172 g, 0.72 mmol) and ammonium chloride (0.385 g, 7.2 mmol) in 6.0 mL of 2:1 ethanol-H2O. The rust colored mixture was refluxed for another 30 min and then cooled and filtered to remove iron oxide. H2O was added to the filtrate and the mixture concentrated to remove ethanol. The resulting aqueous solution was extracted with three 20 mL portions of ethyl acetate and the combined organic phases washed with H2O, brine, and dried (MgSO4). Filtration and concentration gave the crude amine (0.145 g, 0.69 mmol) which was dissolved in 5.0 mL of dichloromethane. Pyridine (0.111 mL, 1.38 mmol) was added to the amine solution and after cooling to 0° C., benzyl chloroformate (0.113 mL, 0.79 mmol) was added. The mixture was stirred for 30 min at 0° C. and for 30 min at room temperature. The reaction mixture was then diluted with dichloromethane and washed with H2O, brine and then dried (MgSO4). Concentration gave a yellow oil that was triturated with hexane to afford [4-(3-aza-bicyclo[3.1.0]hex-3-yl)-3,5-difluoro-phenyl]-carbamic acid benzyl ester as a yellow solid.

reactant | 3-(2,6-difluoro-4-nitro-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.72 mmol, 0.172 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CC2CC2C1 | C11H10F2N2O2
reactant | ammonium chloride | 7.2 mmol, 0.385 g | [Cl-].[NH4+]
reactant | Pyridine | 1.38 mmol, 0.111 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloroformate | 0.79 mmol, 0.113 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethanol H2O | 6.0 mL | C(C)O.O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
catalyst | Iron | 2.15 mmol, 0.120 g | [Fe] | Fe
product | [4-(3-aza-bicyclo[3.1.0]hex-3-yl)-3,5-difluoro-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=C(C(=C1)F)N1CC2CC2C1)F)=O | C19H18F2N2O2
